US07820664B2
To a suspension of methyl 7-fluoro-6-(2-fluorophenylamino)-3-methylbenzo[d]isoxazole-5-carboxylate (2.84 g, 8.93 mmol) in DMF (50 ml) were added N-iodosuccinimide (3.01 g, 13.4 mmol) and TFA (3 ml). After stirring at room temperature for 4 h, the reaction was quenched with saturated aqueous NH4Cl solution (100 ml) and extracted with EtOAc (2×100 ml). The combined organic solution was washed with brine (100 ml), dried over MgSO4 and concentrated. Silica gel chromatography (EtOAc:Hexanes=25:75) yielded 3.77 g (95%) of methyl 7-fluoro-6-(2-fluoro-4-iodophenylamino)-3-methylbenzo[d]isoxazole-5-carboxylate as a tan solid.

reactant | methyl 7-fluoro-6-(2-fluorophenylamino)-3-methylbenzo[d]isoxazole-5-carboxylate | 8.93 mmol, 2.84 g | FC1=C(C(=CC=2C(=NOC21)C)C(=O)OC)NC2=C(C=CC=C2)F | C16H12F2N2O3
reactant | N-iodosuccinimide | 13.4 mmol, 3.01 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | TFA | 3 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | methyl 7-fluoro-6-(2-fluoro-4-iodophenylamino)-3-methylbenzo[d]isoxazole-5-carboxylate | 3.77 g, 95% | FC1=C(C(=CC=2C(=NOC21)C)C(=O)OC)NC2=C(C=C(C=C2)I)F | C16H11F2IN2O3
